US06034238
2b) 2-Naphthylmethyl ((S)-4-(4-(amino-hydroximino-methyl)phenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetate
1.67 g (24 mmol) of hydroxylammonium chloride and 5.04 ml (36 mmol) of triethylamine were added to a solution of 6.64 g (12 mmol) of 2-naphthylmethyl ((S)-4-(4-cyanophenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetate in 120 ml of absolute ethanol and the mixture was heated under reflux for 2.5 h. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The phases were separated and the water phase was extracted with ethyl acetate. The combined organic phases were washed with water and dried over magnesium sulfate. After filtration, the solvent was removed in vacuo and 6.08 g (86%) of the title compound were obtained.

reactant | hydroxylammonium chloride | 24 mmol, 1.67 g | [Cl-].O[NH3+]
reactant | triethylamine | 36 mmol, 5.04 ml | C(C)N(CC)CC | C6H15N
reactant | 2-naphthylmethyl ((S)-4-(4-cyanophenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetate | 12 mmol, 6.64 g | C(#N)C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)OCC1=CC2=CC=CC=C2C=C1)=O)CC1=CC2=CC=CC=C2C=C1)C | C35H27N3O4
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-Naphthylmethyl ((S)-4-(4-(amino-hydroximino-methyl)phenyl)-3-(2-naphthylmethyl)-4-methyl-2,5-dioxoimidazolidin-1-yl)acetate | 6.08 g, 86% | NC(C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)OCC1=CC2=CC=CC=C2C=C1)=O)CC1=CC2=CC=CC=C2C=C1)C)=NO | C35H30N4O5
